US04822780
To a solution of 1.36 g of 4-diethoxyphosphinylmethylbenzoic acid and 0.54 g of benzylamine in 15 ml of dry DMF was added dropwise a solution of 1.00 g of diethyl phosphorocyanidate in 2 ml of dry DMF under ice-cooling with stirring. Then, a solution of 0.56 g of triethylamine in 3 ml of dry DMF was added dropwise thereto requiring 5 minutes. The mixture was stirred for 30 minutes under ice-cooling and one hour at room temperature. After adding 30 ml of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water two times. After drying over anhydrous sodium sulfate, the solvent was evaporated. The residue was subjected to silica gel column chromatography (eluent; chloroform:ethyl acetate=1:1), and 4-diethoxyphosphinylmethyl-N-benzylbenzamide was obtained. It was recrystallized from benzene-n-hexane to give 1.60 g of colorless needles.

reactant | 4-diethoxyphosphinylmethylbenzoic acid | 1.36 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)O)C=C1 | C12H17O5P
reactant | benzylamine | 0.54 g | C(C1=CC=CC=C1)N | C7H9N
reactant | diethyl phosphorocyanidate | 1.00 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 0.56 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 4-diethoxyphosphinylmethyl-N-benzylbenzamide | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)NCC2=CC=CC=C2)C=C1 | C19H24NO4P
